US07414061B2
N-Cyclopentyl-3-[4-(5-methyl-3-phenyl-isoxazol-4-yl)-imidazol-1-yl]-benzamide
As described for Example 71, cyclopentylamine was converted, using 3-[4-(5-methyl-3-phenyl-isoxazol-4-yl)-imidazol-1-yl]-benzoic acid (100 mg, 0.29 mmol) instead of 4-[4-(5-methyl-3-phenyl-isoxazol-4-yl)-imidazol-1-yl]-benzoic acid, to the title compound (49 mg, 41%) which was obtained as an off-white solid. MS: m/e=413.0 [M+H]+.

reactant | cyclopentylamine | C1(CCCC1)N | C5H11N
reactant | 3-[4-(5-methyl-3-phenyl-isoxazol-4-yl)-imidazol-1-yl]-benzoic acid | 0.29 mmol, 100 mg | CC1=C(C(=NO1)C1=CC=CC=C1)C=1N=CN(C1)C=1C=C(C(=O)O)C=CC1 | C20H15N3O3
product | N-Cyclopentyl-3-[4-(5-methyl-3-phenyl-isoxazol-4-yl)-imidazol-1-yl]-benzamide | 49 mg, 41% | C1(CCCC1)NC(C1=CC(=CC=C1)N1C=NC(=C1)C=1C(=NOC1C)C1=CC=CC=C1)=O | C25H24N4O2
